US07091345B2
q) 2-Methyl-2,3-dihydro-1H-isoindol-5-ylamine
2.643 g 4-Amino-N-methylphthalimide was suspended in 50 ml THF and added to 1.328 g lithium aluminum hydride in 50 ml THF at room temperature. The mixture was refluxed for 3 hrs, then stirred a further 3 days at room temperature. Excess LAH was destroyed by addition of water and the mixture filtered over celite. An aqueous phase was separated and extracted with CH2Cl2. The combined organic phases were dried and evaporated. The residue was stirred with HCl in MeOH and the evaporated to yield 1.6 g of the title compound as the hydrochlorid salt.

reactant | 4-Amino-N-methylphthalimide | 2.643 g | NC=1C=C2C(C(=O)N(C2=O)C)=CC1 | C9H8N2O2
reactant | lithium aluminum hydride | 1.328 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 2-Methyl-2,3-dihydro-1H-isoindol-5-ylamine | 1.6 g | CN1CC2=CC=C(C=C2C1)N | C9H12N2
